US08309542B2
(f) Methyl (R)-2,3-dimethyl-1,2,3,4-tetrahydroisoquinoline-6-carboxylate
60 mg (257 μmol) methyl (R)-2,3-dimethyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylate are dissolved in 2 ml THF under an argon atmosphere and at RT combined with 100 μl (542 μmol) diphenylsilane. Then 20 mg (21 μmol) carbonylhydridotris(triphenylphosphine)rhodium(I) are added and the mixture is stirred for two hours. A further 50 μl diphenylsilane and 10 mg carbonylhydridotris(triphenylphosphine)rhodium(I) are added and the mixture is stirred for a further 2.5 hours. Then the reaction mixture is evaporated down i. vac. and purified by flash chromatography on silica gel (eluant DCM/MeOH 95:5).

reactant | methyl (R)-2,3-dimethyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylate | 257 μmol, 60 mg | CN1C(C2=CC=C(C=C2C[C@H]1C)C(=O)OC)=O | C13H15NO3
reactant | diphenylsilane | 542 μmol, 100 μl | C1(=CC=CC=C1)[SiH2]C1=CC=CC=C1 | C12H12Si
reactant | diphenylsilane | 50 μl | C1(=CC=CC=C1)[SiH2]C1=CC=CC=C1 | C12H12Si
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | carbonylhydridotris(triphenylphosphine)rhodium(I) | 21 μmol, 20 mg | [C-]#[O+].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Rh]
catalyst | carbonylhydridotris(triphenylphosphine)rhodium(I) | 10 mg | [C-]#[O+].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Rh]
product | Methyl (R)-2,3-dimethyl-1,2,3,4-tetrahydroisoquinoline-6-carboxylate | CN1CC2=CC=C(C=C2C[C@H]1C)C(=O)OC | C13H17NO2
